US08217043B2
c) 1-Benzyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester
A mixture of benzyl-pyrrol-1-yl-carbamic acid tert-butyl ester (1.28 g, 4.70 mmol) and 2-ethoxycarbonyl-malonic acid diethyl ester (3.0 mL) in a test tube was heated in an oil bath (bath temperature: 220° C. to 230° C.) for 10 min; TLC (EtOAc/hexanes:1/1 by volume) showed good conversion; then cooled, the reaction mixture was directly purified with silica gel column to give the desired product as brown solid (1.00 g). ESI (m/z): 313 (M+H)+.

reactant | benzyl-pyrrol-1-yl-carbamic acid tert-butyl ester | 4.70 mmol, 1.28 g | C(C)(C)(C)OC(N(N1C=CC=C1)CC1=CC=CC=C1)=O | C16H20N2O2
reactant | 2-ethoxycarbonyl-malonic acid diethyl ester | 3.0 mL | C(C)OC(C(C(=O)OCC)C(=O)OCC)=O | C10H16O6
product | 1-Benzyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 1.00 g | C(C)OC(=O)C1=C(C=2N(N(C1=O)CC1=CC=CC=C1)C=CC2)O | C17H16N2O4
